US05401621
(1) Synthesis of 2-Methoxycarbonylethylisothiocyanate
1,256 ml of triethylamine was added to a solution of 603.6 g of β-alaninemethylester sulfate in 1.5 liter of methyl alcohol under cooling with ice. 235 ml of carbon disulfide was added dropwise to the system at a temperature of 10° C. or lower. After the dropwise addition, the system was then stirred at a temperature of 10° C. or lower for 1 hour. 288 ml of ethyl chloroformate was added dropwise to the system at a temperature of 5° C. or lower. The system was then stirred for 2 hours. After the reaction, the reaction solution was then subjected to separation with ethyl acetate and water. The ethyl acetate phase thus extracted was dried with magnesium sulfate, and then filtered off. Ethyl acetate was then distilled off from the system under reduced pressure to obtain 389.1 g (yield: 89.3%) of the desired substance in the form of oil.

reactant | triethylamine | 1,256 ml | C(C)N(CC)CC | C6H15N
reactant | sulfate | 603.6 g | S(=O)(=O)([O-])[O-]
reactant | carbon disulfide | 235 ml | C(=S)=S | CS2
reactant | ethyl chloroformate | 288 ml | ClC(=O)OCC | C3H5ClO2
solvent | methyl alcohol | 1.5 liter | CO | CH4O
product | 2-Methoxycarbonylethylisothiocyanate | yield: 89.3% | COC(=O)CCN=C=S | C5H7NO2S
